US05214038
N-(3-Fluoro-4-pyridinyl)-N-(3-methyl-1H-indol-1-yl)glycine ethyl ester
To a suspension of NaH (60% in oil, 1.48 g) in 10 ml of dimethylformamide (DMF) at ice bath temperature was added dropwise a solution of N-(3-fluoro-4-pyridinyl)-3-methyl-1H-indol-1-amine (8.5 g) in 40 ml of DMF. when addition was complete, the mixture was stirred for 15 minutes at ice bath temperature, and then cooled to -20° C. Ethyl chloroacetate (3.95 ml) was added dropwise in 10 ml of DMF. The mixture was stirred at -20° C. for one hour. The mixture was then poured into water and extracted with ethyl acetate. The organic layer was washed with water and dried (sat. NaCl, anhy. MgSO4). After filtering, the solvent was evaporated to yield an oil (12.2 g) which was eluted with 10% ethyl acetate/DCM on a silica gel column via HPLC. The desired fractions were evaporated to yield 6.9 g of a solid, m.p. 105°-108° C.

reactant | NaH | 1.48 g | [H-].[Na+]
reactant | N-(3-fluoro-4-pyridinyl)-3-methyl-1H-indol-1-amine | 8.5 g | FC=1C=NC=CC1NN1C=C(C2=CC=CC=C12)C | C14H12FN3
reactant | Ethyl chloroacetate | 3.95 ml | ClCC(=O)OCC | C4H7ClO2
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | DMF | 40 ml | CN(C=O)C | C3H7NO
solvent | DMF | 10 ml | CN(C=O)C | C3H7NO
product | N-(3-Fluoro-4-pyridinyl)-N-(3-methyl-1H-indol-1-yl)glycine ethyl ester | 12.2 g | C(C)OC(CN(N1C=C(C2=CC=CC=C12)C)C1=C(C=NC=C1)F)=O | C18H18FN3O2
